US05506256
B) (2S)-2-(4-Methoxyphenoxyacetyl)-1-{N-[(phenylthio)acetyl]-L-prolyl}pyrrolidine
(2S)-2-[1-Hydroxy-2-(4-methoxyphenoxy)ethyl]-1-{N-[(phenylthio)acetyl]-L-prolyl}pyrrolidine (620 mg) was treated in the same manner as in Example 47-D) using DMSO (10 ml), benzene (5 ml), triethylamine (0.90 ml), and sulfur trioxide-pyridine complex (960 mg) to give 510 mg of the title compound.

reactant | (2S)-2-[1-Hydroxy-2-(4-methoxyphenoxy)ethyl]-1-{N-[(phenylthio)acetyl]-L-prolyl}pyrrolidine | 620 mg | OC(COC1=CC=C(C=C1)OC)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(CSC1=CC=CC=C1)=O)=O | C26H32N2O5S
reactant | DMSO | 10 ml | CS(=O)C | C2H6OS
reactant | benzene | 5 ml | C1=CC=CC=C1 | C6H6
solvent | triethylamine | 0.90 ml | C(C)N(CC)CC | C6H15N
product | (2S)-2-(4-Methoxyphenoxyacetyl)-1-{N-[(phenylthio)acetyl]-L-prolyl}pyrrolidine | 510 mg | COC1=CC=C(OCC(=O)[C@H]2N(CCC2)C([C@H]2N(CCC2)C(CSC2=CC=CC=C2)=O)=O)C=C1 | C26H30N2O5S
